US06809097B1
After refluxing a solution of 5-((3-(3-pyrrolidin-1-ylpropoxy)-4-methoxyanilino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione (4.9 g, 12 mmol) in phenyl ether (50 ml) for 1 minute, the mixture was poured into petroleum ether (500 ml). The solid was collected by filtration and purified by reverse phase chromatography on a Diaion (trade mark of Mitsubishi) HP20SS resin column eluting with water/methanol (100/0 increasing to 20/80). After removal of the solvent by evaporation, the purified product was azeotroped with a mixture of ethanol and toluene to give 6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)-1,4-dihydroquinolin-4-one (1 g, 27%).

reactant | 5-((3-(3-pyrrolidin-1-ylpropoxy)-4-methoxyanilino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione | 12 mmol, 4.9 g | N1(CCCC1)CCCOC=1C=C(NC=C2C(OC(OC2=O)(C)C)=O)C=CC1OC | C21H28N2O6
solvent | phenyl ether | 50 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)-1,4-dihydroquinolin-4-one | 1 g, 27% | COC=1C=C2C(C=CNC2=CC1OCCCN1CCCC1)=O | C17H22N2O3
